US04962103
S-p-Nitrobenzyloxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine (719 mg) was added to 770 mg of (2R,4R)-2-(4-t-butoxycarbonylbutyl)-4-t-butyldimethylsilyloxypyrrolidine in 7 ml of tetrahydrofuran and stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate, washed successively with brine, dilute hydrochloric acid and brine, dried over anhydrous sodium sulfate and distilled to remove the solvent. The residue was purified by silica gel chromatography to obtain (2R,4R)-1-p-nitrobenzyloxycarbonyl-2-(4-t-butoxycarbonylbutyl)-4-t-butyldimethylsilyloxypyrrolidine.

reactant | S-p-Nitrobenzyloxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine | 719 mg | [N+](=O)([O-])C1=CC=C(COC(=O)SC2=NC(=CC(=N2)C)C)C=C1 | C14H13N3O4S
reactant | (2R,4R)-2-(4-t-butoxycarbonylbutyl)-4-t-butyldimethylsilyloxypyrrolidine | 770 mg | C(C)(C)(C)OC(=O)CCCC[C@H]1NC[C@@H](C1)O[Si](C)(C)C(C)(C)C | C19H39NO3Si
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4R)-1-p-nitrobenzyloxycarbonyl-2-(4-t-butoxycarbonylbutyl)-4-t-butyldimethylsilyloxypyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O[Si](C)(C)C(C)(C)C)CCCCC(=O)OC(C)(C)C)C=C1 | C27H44N2O7Si
